US04048184
2-Methyl-N-(1-methylpropyl)-6-phenyl-2H-pyrazolo[3,4-b]-pyridin-4-amine
14.6 g. of 4-chloro-2-methyl-6-phenyl-2H-pyrazolo-[3,4-b]pyridine (0.06 mol.) and a solution of 100 ml. of methylpropylamine in 150 ml. of benzene are heated at 220° in an autoclave for 20 hours. After cooling, the mixture is evaporated in vacuo, and to the residue 100 ml. of water and 100 ml. of chloroform are added. After agitation, the chloroform extract is separated and dried with Na2SO4. Evaporation yields an oily product which, after treatment with ether, becomes solid. 14.3 g. of 2-methyl-N-(1-methylpropyl)-6-phenyl-2H-pyrazolo[3,4-b]pyridin-4-amine, (m.p. 148°-151°), are recrystallized from ethyl acetate giving a pure product of the melting point 156°-157°.

reactant | 4-chloro-2-methyl-6-phenyl-2H-pyrazolo-[3,4-b]pyridine | 0.06 mol | ClC=1C=2C(N=C(C1)C1=CC=CC=C1)=NN(C2)C | C13H10ClN3
reactant | methylpropylamine | CNCCC | C4H11N
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | ether | CCOCC | C4H10O
product | 2-Methyl-N-(1-methylpropyl)-6-phenyl-2H-pyrazolo[3,4-b]-pyridin-4-amine | CN1N=C2N=C(C=C(C2=C1)NC(CC)C)C1=CC=CC=C1 | C17H20N4
